US07728035B2
4,5-Bis(2-benzyloxyacetyloxy)-9,10-dioxo-9,10-dihydroanthracene-2-carboxylic acid
4,5-Dihydroxy-9,10-dioxoanthracene-2-carboxylic acid (3.0 g) was suspended in pyridine (100 ml) and stirred at RT for 30 mins. Benzyloxyacetyl chloride (3.6 g, 5 equiv.) was added, to give a clear reaction mixture which was stirred at RT over the weekend. The reaction mixture was reduced to a smaller volume and quenched with 2M HCl (200 ml), adjusting the pH to pH 2. An orange solid was isolated by filtration. This crude solid was slurried in water (30 ml), followed by ethyl acetate (30 ml) and dichloromethane (30 ml). A yellow solid was isolated by filtration (3.6 g, 61%).

reactant | 4,5-Dihydroxy-9,10-dioxoanthracene-2-carboxylic acid | 3.0 g | OC1=CC(=CC=2C(C3=CC=CC(=C3C(C12)=O)O)=O)C(=O)O | C15H8O6
reactant | Benzyloxyacetyl chloride | 3.6 g, 5 equiv. | C(C1=CC=CC=C1)OCC(=O)Cl | C9H9ClO2
reactant | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
reactant | dichloromethane | 30 ml | ClCCl | CH2Cl2
reactant | water | 30 ml | O | H2O
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 4,5-Bis(2-benzyloxyacetyloxy)-9,10-dioxo-9,10-dihydroanthracene-2-carboxylic acid | C(C1=CC=CC=C1)OCC(=O)OC1=CC(=CC=2C(C3=CC=CC(=C3C(C12)=O)OC(COCC1=CC=CC=C1)=O)=O)C(=O)O | C33H24O10
